US06518272B2
Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(1H-indol-4-yl)-piperazin-1-yl]-ethyl}-methyl-amide
To a solution of 0.6 g (1.69 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(1H-indol-4-yl)-piperazin-1-yl]-ethyl}-methyl-amine and 0.5 mL (3.7 mmol) of triethylamine in 10 mL of dichloromethane at 0° C. was added dropwise 0.25 g (1.69 mmol) of cyclohexanecarboxylic acid chloride in dichloromethane. The reaction mixture was allowed to stir under nitrogen overnight at ambient temperature, and was then concentrated on a rotary evaporator, diluted with ethyl acetate and washed with H2O and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (ethyl acetate/hexanes) and converted to the hydrochloride.0.3 hydrate salt of the title compound with ethereal HCl yield 0.68 g (87%) as a white solid; mp=>260° C.; MS (+) ESI m/z=465 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(1H-indol-4-yl)-piperazin-1-yl]-ethyl}-methyl-amine | 1.69 mmol, 0.6 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C2C=CNC2=CC=C1)NC | C22H34N4
reactant | triethylamine | 3.7 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarboxylic acid chloride | 1.69 mmol, 0.25 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(1H-indol-4-yl)-piperazin-1-yl]-ethyl}-methyl-amide | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C2C=CNC2=CC=C1)N(C(=O)C1CCCCC1)C | C29H44N4O
